US08017775B2
6-(2-Methoxyphenyl)-5-[(pyrrolidin-1-yl)carbonyl]-2,2,4-trimethyl-1,2-dihydroquinoline (Compound No. 9-1)
A mixture of 6-(2-hydroxyphenyl)-5-[(pyrrolidin-1-yl)carbonyl]-2,2,4-trimethyl-1,2-dihydroquinoline (Compound No. 8-1, 65.0 mg, 0.179 mmol), methyl iodide (11.1 μL, 0.178 mmol) and potassium carbonate (49.5 mg, 0.358 mmol) was suspended in anhydrous N,N-dimethylformamide (1.5 mL), and the reaction mixture was stirred at 50° C. overnight. After cooling down, it was diluted with ethyl acetate (100 mL). The whole was washed with water (100 mL) and saturated brine (50 mL) successively, dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (42.5 mg) as a colorless solid. (Yield 63%)

reactant | 6-(2-hydroxyphenyl)-5-[(pyrrolidin-1-yl)carbonyl]-2,2,4-trimethyl-1,2-dihydroquinoline | 0.179 mmol, 65.0 mg | OC1=C(C=CC=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)C(=O)N1CCCC1 | C23H26N2O2
reactant | methyl iodide | 0.178 mmol, 11.1 μL | CI | CH3I
reactant | potassium carbonate | 0.358 mmol, 49.5 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 6-(2-Methoxyphenyl)-5-[(pyrrolidin-1-yl)carbonyl]-2,2,4-trimethyl-1,2-dihydroquinoline | 42.5 mg, Yield 63% | COC1=C(C=CC=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)C(=O)N1CCCC1 | C24H28N2O2
